US04914202
Chloroacetyl chloride (0.21 g, 0.15 ml) in dichloromethane (5 ml) was added dropwise, under nitrogen to a stirred, ice-cooled solution of 3-chloro-α-[[[1,1-dimethylethyl]amino]methyl]benzenemethanol (0.5 g) and triethylamine (0.38 g, 0.53 ml) in dichloromethane (40 ml). The reaction mixture was stirred at ambient temperature for 2 h., washed with hydrochloric acid (2N), brine, dried (MgSO4), evaporated and chromatographed on silica. Elution with chloroform gave α-chloro-N-[2-(3-chlorophenyl)-2-hydroxyethyl]-N-[1,1-dimethylethyl]acetamide as a colourless oil.

reactant | Chloroacetyl chloride | 0.15 ml, 0.21 g | ClCC(=O)Cl | C2H2Cl2O
reactant | 3-chloro-α-[[[1,1-dimethylethyl]amino]methyl]benzenemethanol | 0.5 g | ClC=1C=C(C=CC1)C(O)CNC(C)(C)C | C12H18ClNO
reactant | triethylamine | 0.53 ml, 0.38 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | α-chloro-N-[2-(3-chlorophenyl)-2-hydroxyethyl]-N-[1,1-dimethylethyl]acetamide | ClCC(=O)N(C(C)(C)C)CC(O)C1=CC(=CC=C1)Cl | C14H19Cl2NO2
